2187-01-14 10:48:00 Physician Resident Progress Note
Chief Complaint: altered mental status, unable to handle secretions
   24 Hour Events:
   Became altered overnight with paranoia, per neurology this is not a new
   event as it occurred on admission. Patient given 5mg haldol and calmed
   down for rest of night.
   In setting of agitation, went afib with RVR, MAPs never <60. Hr
   improved with po dilta and haldol.
   Oncology stays years of life up to 10, issue is quality of life
   HCT remained stable
   started scopolamine patch
   FeNa  1.7%   FeUREA 44.7%
   started tube feeds
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2187-1-13**] 12:07 PM
   Vancomycin - [**2187-1-13**] 02:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-1-14**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2187-1-14**] 09:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2187-1-14**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.2
   HR: 108 (71 - 150) bpm
   BP: 94/50(60) {92/50(60) - 135/71(84)} mmHg
   RR: 29 (17 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,143 mL
                                                                    670 mL
   PO:
             TF:
                                                                    203 mL
                                                                    418 mL
   IVF:
                                                                    710 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    680 mL
   Urine:
                                                                  1,140 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -347 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, 5L
   SpO2: 100%
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, nasal trumpet in place
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: , Wheezes : ), rhonchorus upper airway
   Abdominal: Soft, Bowel sounds present, Distended, Tender: diffusely,
   G-tube in place
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   249 K/uL
   8.3 g/dL
   116 mg/dL
   2.8 mg/dL
   26 mEq/L
   3.3 mEq/L
   42 mg/dL
   104 mEq/L
   139 mEq/L
   24.8 %
   8.4 K/uL
        [image002.jpg]
                            [**2187-1-12**]  10:51 AM
                            [**2187-1-12**]  06:11 PM
                            [**2187-1-12**]  08:00 PM
                            [**2187-1-13**]  04:00 AM
                            [**2187-1-13**]  02:37 PM
                            [**2187-1-14**]  06:05 AM
   WBC
   13.4
   11.7
   8.4
   Hct
   29.4
   25.1
   24.8
   24.8
   Plt
   261
   215
   249
   Cr
   2.6
   2.6
   2.9
   2.8
   2.8
   TropT
   0.02
   Glucose
   109
   118
   118
   98
   100
   116
   Other labs: PT / PTT / INR:13.6/27.9/1.2, CK / CKMB /
   Troponin-T:47//0.02, ALT / AST:18/27, Alk Phos / T Bili:93/0.5,
   Differential-Neuts:82.0 %, Lymph:12.0 %, Mono:5.1 %, Eos:0.9 %,
   Albumin:3.0 g/dL, LDH:213 IU/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.2
   mg/dL
   CXR: improvement of pneumoperitoneum, no acute cardiopulmonary process
   Cultures: stool, urine, blood no growth to date. Sputum all
   insufficient due to patient lack of gag.
   Assessment and Plan
   This is a 50 year old man with astrocytoma and recent long hospital
   stays who comes to the MICU floor from the neuro floor with atrial
   fibrillation and hypotension; and stays for poor pulmonary toilet in
   the setting of copious secretions.
    MENTAL STATUS: paranoid O/N received haldol. This also occurred when
   he was initially admitted to neuro service. Concerned this represents
   delirium in setting of infection or sundowning due underlying brain
   dysfunction from astrocytoma. Need to also consider may be scopolamine
   patch, do not think cause as patient has done before.
   - zydis prn
   - MRI non contrast brain when able
 but will defer to neurooncology
   - consult with neuro-oncology, PCP [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 980**]
   - follow closely.
   LEUKOCYTOSIS: resolved on antibiotics. Will treat empirically for
   bronchitis vs pneumonia on cefepime/ vancomycin. Abdominal pain in
   setting of pneumoperitoneum [**2-25**] PEG site manipulation, has not appeared
   to be an infectious process.
   - continue cefepime /vanco for 8 day course
   - follow cxr
   - f/u cxs incl urine blood sputum; stool for c. diff
   - avoid flagyl given past experience of likely association ? lowered sz
   threshold and szs
   NEW ONSET ATRIAL FIBRILLATION: patient went into atrial fibrillation
   O/N [**1-14**]. Maps remained > 60. Patient was very agitated at the time.
   Patient was treated for mental status changes as above. Most likely c/w
   infectious process. LENI negative for DVT; at this point low suspicion
   for PE and does not need further workup for this. No past report of
   structural problems with heart or other pulmonary disease. thyroid labs
   unremarkable. ECHO with diastolic dysfunction and preserved EF. Left
   and right atrium > 6.5 cm.
   - treating for possible PNA as above
   - continue diltiazem this am to help with rate control
   - anticoagulation should likely be avoided given dangers of bleeding
   into brainstem lesion
   HYPOTENSION/HYPERTENSION
   Normotensive currently. Has been hypertensive and on amlodipine,
   lisinopril, and hydrochlorothiazide. D/c'ing ACEi and HCTZ given renal
   failure. Continuing diltiazem should control BP as well as providing
   rate control.
   - diltiazem for rate control
   - amlodipine
   RENAL FAILURE: lytes suggest may be intrinsic. negative eos, stable
   urine function. Patient off acyclovir.
   - good urine output currently; c/w ATN
   - trend Cr, monitor UOP
   - holding HCTZ and lisinopril
   TACHYPNEA: due to secretions. on scopolamine patch.
   - RNs are suctioning secretions, q2-4hours
   - incentive spirometry, chest PT as tolerated
   - f/u CXRs
   ASTROCYTOMA; benign, consequence due to fact that it is space occupying
   - plan discussion with family and neuro onc quality vs quantity of life
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2187-1-14**] 07:24 AM 50 mL/hour
   Glycemic Control:  Comments: insulin sliding scale
   Lines:
   18 Gauge - [**2187-1-12**] 11:53 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  not intubated
   Communication:  family, discussed at interdisciplinary rounds
   Code status: Full code
   Disposition: call out to the floor, need continuous O2 monitoring

2187-01-14 11:22:00 Physician Attending Progress Note
Chief Complaint: Afib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50 year old man with astrocytoma who was transfered to the MICU for
   afib with RVR and poor pulmonary toilet, inability to manage
   secretions. Please see previous notes for details.
   24 Hour Events:
   Agitated overnight requiring restraints. Responded to haldol.
   Urine lytes consistent with intrinsic renal injury
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2187-1-13**] 12:07 PM
   Vancomycin - [**2187-1-13**] 02:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-1-14**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2187-1-14**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-1-14**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.2
   HR: 108 (71 - 150) bpm
   BP: 110/65(72) {92/50(60) - 135/71(84)} mmHg
   RR: 29 (20 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,143 mL
                                                                    728 mL
   PO:
             TF:
                                                                    203 mL
                                                                    467 mL
   IVF:
                                                                    710 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    740 mL
   Urine:
                                                                  1,140 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -347 mL
                                                                    -12 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Gen: chronically ill appearing man
   HEENT: o/p dry
   CV: RR
   Chest: coarse rhonchi bilat, no wheezes
   Abd: soft NT +BS
   Skin:  warm, no rash
   Neurologic: Responds to voice and follows some simple commands
   Labs / Radiology
   8.3 g/dL
   249 K/uL
   116 mg/dL
   2.8 mg/dL
   26 mEq/L
   3.3 mEq/L
   42 mg/dL
   104 mEq/L
   139 mEq/L
   24.8 %
   8.4 K/uL
        [image002.jpg]
                            [**2187-1-12**]  10:51 AM
                            [**2187-1-12**]  06:11 PM
                            [**2187-1-12**]  08:00 PM
                            [**2187-1-13**]  04:00 AM
                            [**2187-1-13**]  02:37 PM
                            [**2187-1-14**]  06:05 AM
   WBC
   13.4
   11.7
   8.4
   Hct
   29.4
   25.1
   24.8
   24.8
   Plt
   261
   215
   249
   Cr
   2.6
   2.6
   2.9
   2.8
   2.8
   TropT
   0.02
   Glucose
   109
   118
   118
   98
   100
   116
   Other labs: PT / PTT / INR:13.6/27.9/1.2, CK / CKMB /
   Troponin-T:47//0.02, ALT / AST:18/27, Alk Phos / T Bili:93/0.5,
   Differential-Neuts:82.0 %, Lymph:12.0 %, Mono:5.1 %, Eos:0.9 %,
   Albumin:3.0 g/dL, LDH:213 IU/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.2
   mg/dL
   Imaging: No infiltrate
   Microbiology: Sputum culute poor quality
   Assessment and Plan
   50 year old man with progressive astrocytoma admitted for afib with
   RVR, now with respiratory insuffcieny [**2-25**] poor pulmonary toilet.
   1.       Resp Distress: Primary issue is persistent aspiration and
   inability to protect his airway with frequent desaturations and need
   for NT suctioning . No imaging evidence of lower respiratory infection
   but has mild leukocytosis and low grade temps, we are treating
   empirically with vanc/cefpime and cultures pending.
   2.       Non-oliguric ARF with no acute indication for hemodialysis.
   Urine lytes , renal ultrasound pending. Renally dose meds and avoid
   nephrotoxins.
   3.       Afib: On Diltiazem for afib, TTE pending, TSH wnl, cardiac
   markers negative.
   4.       Agitation: per old notes frequent nocturnal agitation on floor
 responded to Haldl, start nocturnal seroqeul. Avoiding benzos.
   Scopalamine was a new med for him so if recurs will need to d/c.
   5.       Astrocytoma: per NeuroOnc benign pathology so prognosis is
   limited mainly by his present neuron deficit and their impairment on
   his quality of life.
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2187-1-14**] 07:24 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2187-1-12**] 11:53 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Code status: Full code
   Disposition :Transfer to floor if resp statu sis stable.